* C:\Users\Tim\PycharmProjects\OSIM\Schaltungen Masterarbeit\Mixer\GilbertMixer\GilberMixerEasy.asc
Q1 Q1C LOPlus Q6C 0 NPN
Q2 Q1C LOMinus Q5C 0 NPN
Q3 Q3C LOMinus Q6C 0 NPN
Q4 Q3C LOPlus Q5C 0 NPN
Q5 Q5C RFMinus vCurMirror 0 NPN
Q6 Q6C RFPlus vCurMirror 0 NPN
Q7 vCurMirror N007 N008 0 NPN
Q8 N007 N007 N009 0 NPN
R1 N008 0 200
R2 N009 0 200
R3 VCC N007 578
V2 VCC 0 3.3
R10 N001 RFPlus 2100
R11 N003 0 4000
R12 N002 RFMinus 2100
R13 N004 0 4000
R14 0 SUB 200
V1 N005 N006 0
V4 LOPlus 0 2.4
V5 LOMinus 0 2.2
C3 RFPlus N005 8e-12
C4 RFMinus N006 8e-12
R4 VCC Q1C 481
R5 VCC Q3C 481
Q9 VCC VCC N001 0 NPN
Q10 VCC VCC N002 0 NPN
Q11 RFPlus RFPlus N003 0 NPN
Q12 RFMinus RFMinus N004 0 NPN
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.op
* V1:RIN=100;FUNC=SIN;F=180e9;DC=0;AC=0.1
* .V5:RIN=50;FUNC=PULSE;VON=0.075;VOFF=0;TR=0.01e-9;TF=0.01e-9;TON=0.1e-9;TOFF=0.1e-9
* .V4:RIN=50;FUNC=PULSE;VON=0;VOFF=0.075;TR=0.01e-9;TF=0.01e-9;TON=0.1e-9;TOFF=0.1e-9
* Q7:Nx=3
* Q8:Nx=3
* Q5:Nx=2
* Q6:Nx=2
* Q1:Nx=2
* Q3:Nx=2
* Q2:Nx=2
* Q4:Nx=2
.backanno
.end
